US05491147
2-Cyclopentyloxy-4-(3-nitrophenyl)anisole
2-Cyclopentyloxy-4-(3-nitrophenyl)phenol (600 mg, 2.45 mmol) was dissolved in DMF (40 ml) and treated with Cs2CO3 (730 mg, 2.24 mmol) and cyclopentyl bromide (0.32 ml, 2.94 mmol). After stirring overnight at RT some of the phenol remained (SiO2 :t.l.c, CH2Cl2). Cs2CO3 (870 mg, 2.67 mmol) and cyclopentyl bromide (0.32 ml, 2.94 mmol) were added. After stirring at RT for 3 h the phenol had been consumed. The reaction mixture was filtered and concentrated in vacuo. The residue was dissolved in Et2O (50 ml), filtered, and concentrated in vacuo to give a yellow solid which was recrystallised fromdichloromethane/hexane to afford the title compound (378 mg) as yellow needles. δH (CDCl3 ; 80 mHz) 1.5-2.1 (8H, br m, (CH2)4), 3.87 (3H, s, OMe), 4.84 (1H, br m, OCHCH2), 6.91 (1 H, d, J9.1 Hz, ArH ortho to OMe), 7.0-7.2 (2H, m, ArH meta to OMe), 7.54 (1H, d, J7.5 Hz, ArH meta to NO2), 7.80 (1 H, ca. dt, Jca 7.5, 1.5 Hz, ArH para to NO2), 8.09 (1 H, ca. dt, J ca.8, 1.5 Hz, ArH parato aryl), 8.33 (1 H, ca. t, J ca 2 Hz, ArH ortho to NO2 and aryl); m/z313 (M+, 7%), 246 (17), 245 (M+ -cyclopentyl, 100), 230 (41), 202(8), and 139 (9).

reactant | 2-Cyclopentyloxy-4-(3-nitrophenyl)phenol | 2.45 mmol, 600 mg | C1(CCCC1)OC1=C(C=CC(=C1)C1=CC(=CC=C1)[N+](=O)[O-])O | C17H17NO4
reactant | Cs2CO3 | 2.24 mmol, 730 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | cyclopentyl bromide | 2.94 mmol, 0.32 ml | C1(CCCC1)Br | C5H9Br
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 2.67 mmol, 870 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | cyclopentyl bromide | 2.94 mmol, 0.32 ml | C1(CCCC1)Br | C5H9Br
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Cyclopentyloxy-4-(3-nitrophenyl)anisole | 378 mg | C1(CCCC1)OC1=C(C=CC(=C1)C1=CC(=CC=C1)[N+](=O)[O-])OC | C18H19NO4
